US06468995B1
To a solution of 2-(2-aminothiazol-4-yl)-2-(Z)-trityloxyiminoacetic acid (2.87 g) in N,N-dimethylacetamide (28.7 ml) was added potassium carbonate (0.925 g) and methanesulfonyl chloride (1.04 ml) under ice-cooling. After stirring at the same temperature for 30 minutes, the mixture was added dropwise to a solution of diphenylmethyl 7β-amino-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate (3.23 g) and bis-trimethylsilylacetamide (9.93 ml) in N,N-dimethylacetamide (32.3 ml) under ice-cooling. After being stirred at the same temperature for 45 minutes, the mixture was poured into a mixture of ice-water and ethyl acetate. The organic layer was separated, washed with water and brine, dried over magnesium sulfate, and evaporated to give diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate (4.87 g).

reactant | 2-(2-aminothiazol-4-yl)-2-(Z)-trityloxyiminoacetic acid | 2.87 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19N3O3S
reactant | potassium carbonate | 0.925 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonyl chloride | 1.04 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl 7β-amino-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate | 3.23 g | N[C@H]1[C@@H]2N(C(=C(CS2)SC2=CN=NS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H18N4O3S3
reactant | bis-trimethylsilylacetamide | 9.93 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | N,N-dimethylacetamide | 28.7 ml | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylacetamide | 32.3 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | diphenylmethyl 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-(trityloxyimino)acetamido]-3-[(1,2,3-thiadiazol-5-yl)thio]-3-cephem-4-carboxylate | 4.87 g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SC2=CN=NS2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H35N7O5S4
